US05374641
In 15 m of methylene chloride were dissolved 0.19 g of ethyl 4-[2-amino-2-(3-pyridyl)ethyl]phenoxyacetate and 0.09 g of triethylamine, followed by addition of 0.17 g of p-toluene sulfonylchloride, and stirred at room temperature for 15 hours. To the reaction mixture was added water, and the organic phase was then separated, which was extracted from aqueous phase with methanol-methylene chloride (5:95 v/v). The organic phases were combined and washed with 2N hydrogen chloride, followed by washing in aqueous saturated sodium chloride solution and drying over magnesium sulfate. Then, the solvent was evaporated off under reduced pressure. The residue obtained was subjected to preparative TLC on silica gel which was developed with methanol-methylene chloride (5:95 v/v). From the band at an Rf value of 0.35 to 0.45, 0.13 g of ethyl 4-[2-(4-toluene sulfonamido)-2-(3-pyridyl)ethyl]phenoxyacetate was obtained, which spectrometric data supports the structure of [18] as follows.

reactant | ethyl 4-[2-amino-2-(3-pyridyl)ethyl]phenoxyacetate | 0.19 g | NC(CC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1 | C17H20N2O3
reactant | triethylamine | 0.09 g | C(C)N(CC)CC | C6H15N
reactant | p-toluene sulfonylchloride | 0.17 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | ethyl 4-[2-(4-toluene sulfonamido)-2-(3-pyridyl)ethyl]phenoxyacetate | 0.13 g | C1(=CC=C(C=C1)S(=O)(=O)NC(CC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1)C | C24H26N2O5S
